US07795236B2
tert-Butyl N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzyl]carbamate
To a mixture of tert-butyl N-(4-bromobenzyl)carbamate (0.500 g), bis(pinacolato)diboron (0.488 g), potassium acetate (0.514 g) and dimethylsulfoxide (10.5 mL) was added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (0.043 g), and the resulting mixture was stirred at 80° C. for 30 minutes. The reaction mixture was cooled to room temperature and then partitioned between ethyl acetate (40 mL) and water (15 mL). The organic layer was washed with water/brine (1/1, 10 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=4/1) to give the title compound (0.579 g).

reactant | tert-butyl N-(4-bromobenzyl)carbamate | 0.500 g | BrC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C12H16BrNO2
reactant | bis(pinacolato)diboron | 0.488 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.514 g | C(C)(=O)[O-].[K+]
reactant | dimethylsulfoxide | 10.5 mL | CS(=O)C | C2H6OS
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dichloromethane | 0.043 g | ClCCl | CH2Cl2
product | tert-Butyl N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzyl]carbamate | 0.579 g | CC1(OB(OC1(C)C)C1=CC=C(CNC(OC(C)(C)C)=O)C=C1)C | C18H28BNO4
